US06875769B2
4-Bromo-2-methyl-8-(2,4,6-trimethyl-phenyl)-quinoline
A mixture of trifluoro-methanesulfonic acid 2-methyl-8-(2,4,6-trimethyl-phenyl)-quinolin-4-yl ester (426 mg, 1 mmol) and potassium bromide (KBr) (809 mg, 1.1 mmol) in a mixture of 1 ml of dry DMSO and 3 ml of dry THF was heated in 120° C. oil bath for 3 hours. The mixture was quenched with water, extracted with ethyl acetate. The organic layer was dried and concentrated to give 358 mg of the title compound as an off-white solid. 1H NMR (CDCl3) δ 8.16 (m,1H), 7.59 (m,1H), 7.56(s,1H), 7.48(m,1H), 6.97(s,1H), 2.53(s,3H), 2.37(s,3H), 1.87(,6H) ppm.

reactant | trifluoro-methanesulfonic acid 2-methyl-8-(2,4,6-trimethyl-phenyl)-quinolin-4-yl ester | 1 mmol, 426 mg | CC1=NC2=C(C=CC=C2C(=C1)OS(=O)(=O)C(F)(F)F)C1=C(C=C(C=C1C)C)C | C20H18F3NO3S
reactant | potassium bromide | 1.1 mmol, 809 mg | [Br-].[K+]
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 4-Bromo-2-methyl-8-(2,4,6-trimethyl-phenyl)-quinoline | 358 mg | BrC1=CC(=NC2=C(C=CC=C12)C1=C(C=C(C=C1C)C)C)C | C19H18BrN
